US07662849B2
Sodium hydroxide (2.32 g, 58 mmol) was dissolved in water (27 mL). 2-tert-Butoxycarbonylamino-3-cyclopropylmethylsulfanyl-propionic acid (7.94 g, 29 mmol) was added. A solution of Oxone™ in water (100 mL) was added slowly. The pH was adjusted to 3 by addition of sodium bicarbonate and the reaction mixture stirred for 30 minutes and extracted with ethyl acetate. The combined organic phases were washed with brine and dried with magnesium sulfate. The solvent was removed to yield 2(R)-tert-butoxycarbonylamino-3-cyclopropylmethanesulfonyl-propionic acid (4.64 g, 15 mmol, 31%).

reactant | Sodium hydroxide | 58 mmol, 2.32 g | [OH-].[Na+]
reactant | 2-tert-Butoxycarbonylamino-3-cyclopropylmethylsulfanyl-propionic acid | 29 mmol, 7.94 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CSCC1CC1 | C12H21NO4S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | 27 mL | O | H2O
reactant | water | 100 mL | O | H2O
product | 2(R)-tert-butoxycarbonylamino-3-cyclopropylmethanesulfonyl-propionic acid | 15 mmol, 4.64 g, 31% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CS(=O)(=O)CC1CC1 | C12H21NO6S
